US06458783B1
A. N,N-bis(2-methoxyethyl)sulfamyl Chloride
A premixed solution of bis-methoxyethylamine (15.0 ml, 102 mmol, 1.00 equiv.) and triethylamine (21.3 ml, 153 mmol, 1.50 equiv.) was added dropwise to a solution of sulfuryl chloride (20.7 ml, 153 mmol, 1.50 equiv.) in CH2Cl2 at 0° C. The reaction mixture was continued stirred at 0° C. for 2 h, poured into ice and extracted with CH2Cl2 (3×100 ml). The combined organic extracts were washed with a saturated NaCl soln (1×100 ml), the organic layer dried (Na2SO4), filtered and concentrated under vacuum to afford the title compound (18.5 g, 80%) which was used without further purification. 1HNMR (CDCl3): 3.37 (s, 6H), 3.64-3.64 (m, 8H)

reactant | bis-methoxyethylamine | 102 mmol, 15.0 ml, 1.00 equiv. | COCCNCCOC | C6H15NO2
reactant | triethylamine | 153 mmol, 21.3 ml, 1.50 equiv. | C(C)N(CC)CC | C6H15N
reactant | sulfuryl chloride | 153 mmol, 20.7 ml, 1.50 equiv. | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N,N-bis(2-methoxyethyl)sulfamyl Chloride | 18.5 g, 80% | COCCN(S(=O)(=O)Cl)CCOC | C6H14ClNO4S
